US09238644B2
(b) tert-Butyl 4-(5-((4-((2-(1-amino-1-oxopropan-2-yl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate (A71)
To a mixture of tert-butyl 4-(5-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate A70 (0.397 g, 0.867 mmol), 2-(2-ethynylphenyl)propanamide K7 (0.195 g, 1.13 mmol), CuI (0.011 g, 0.057 mmol), PdCl2(PPh3)2 (0.039 g, 0.056 mmol) and t-Bu3PH.BF4 (0.017 g, 0.058 mmol) under a nitrogen atmosphere was added dioxane (12 mL) and DIPEA (0.60 mL, 3.4 mmol). The mixture was stirred at room temperature for 96 hours before being concentrated under reduced pressure and purifying by silica gel column chromatography (Biotage Isolera, SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C. and 0-20% MeOH in EtOAc) to give the title compound A71 (0.139 g, 27%). LCMS-D: rt 3.626 min; m/z 595.3 [M+H]+.

reactant | tert-butyl 4-(5-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H23ClF3N5O2
reactant | 2-(2-ethynylphenyl)propanamide | C(#C)C1=C(C=CC=C1)C(C(=O)N)C | C11H11NO
reactant | BF4 | 0.058 mmol, 0.017 g | F[B-](F)(F)F
reactant | DIPEA | 3.4 mmol, 0.60 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | CuI | 0.057 mmol, 0.011 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.056 mmol, 0.039 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-(5-((4-((2-(1-amino-1-oxopropan-2-yl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | NC(C(C)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H33F3N6O3
